US05185333
To a solution of 1.03 g of 6-chloro-2,2,4-trimethyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid in a mixed solvent of 5 ml of dimethylformamide and 10 ml of tetrahydrofuran was added 0.6 g N-methylmorpholine, and 0.55 g of isobutyl chloroformate was added dropwise thereto at -10° to -5° C. under ice-cooling. After stirring for 20 minutes at the same temperature, 0.63 g of (S)-(-)-2-aminomethyl-1-butylpyrrolidine was added at -10° to -5° C. and the mixture was stirred at room temperature for three hours. The resultant mixture was concentrated under reduced pressure, and to the residue were added an aqueous potassium carbonate solution and ethyl acetate. The organic layer was separated and washed with water and then dried over magnesium sulfate. The solvent was distilled off and the residue was recrystallized from isopropyl ether to give (S)-N-[(1-butyl-2-pyrrolidinyl)methyl]-6-chloro-2,2,4-trimethyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide as white crystals, melting at 110° to 112° C. [α]D =-61.7° (c=1, methanol)

reactant | 6-chloro-2,2,4-trimethyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxylic acid | 1.03 g | ClC=1C=C(C2=C(N(CC(O2)(C)C)C)C1)C(=O)O | C12H14ClNO3
reactant | N-methylmorpholine | 0.6 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.55 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (S)-(-)-2-aminomethyl-1-butylpyrrolidine | 0.63 g | NC[C@H]1N(CCC1)CCCC | C9H20N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-N-[(1-butyl-2-pyrrolidinyl)methyl]-6-chloro-2,2,4-trimethyl-3,4-dihydro-2H-1,4-benzoxazine-8-carboxamide | C(CCC)N1[C@@H](CCC1)CNC(=O)C1=CC(=CC=2N(CC(OC21)(C)C)C)Cl | C21H32ClN3O2
